US07482350B2
Step 1. Preparation of 2,4-dichloro-5-(5-isopropyl-2-methyl-phenoxymethyl)-6-methyl-pyrimidine
To a solution of 2,4-dichloro-5-chloromethyl-6-methyl-pyrimidine (17.4 g, 82.7 mmol) and carvacrol (6.21 g, 41.4 mmol) in DMA (166 mL) at 0° C. under nitrogen with magnetic stirring is added KOtBu (42 mL of 1 M in THF, 42 mmol) in dropwise fashion over 20 min. The resulting redish-orange colored solution is allowed to slowly warm to ambient temperature (˜2 h) and stir for 18 h. The reaction mixture is re-cooled to 0° C. and another portion of carvacrol is added (6.21, 41.4 mmol) followed by dropwise addition of KOtBu (42 mL of 1 M in THF, 42 mmol). The reaction mixture is allowed to slowly warm to ambient temperature (˜2 h) and stir for 18 h. The reaction mixture is partitioned between EtOAc (200 mL) and water (60 mL), the organic layer is separated, washed with water (60 mL×3), brine (60 mL), dried over sodium sulfate, filtered and evaporated at reduced pressure to obtain an orange oil. The crude product is dissolved in hexanes (300 mL), quickly extracted with Claisen's alkali (50 mL×2), dried over sodium sulfate, filtered and evaporated to obtain an orange oil. Purification by chromatography on silica gel (10 EtOAc/Hexanes) provides the title compound as a colorless oil that solidifies on standing. LC/MS (Method 3), M+H=325.2, Rt=3.03 min.; 1H NMR (CDCl3) δ=7.09 (d, 1H), 6.82 (d, 1H), 6.81 (s, 1H), 5.17 (s, 2H), 2.90 (m, 1H), 2.68 (s, 3H), 2.14, (s, 3H), 1.26 (d, 6H).

reactant | 2,4-dichloro-5-chloromethyl-6-methyl-pyrimidine | 82.7 mmol, 17.4 g | ClC1=NC(=C(C(=N1)Cl)CCl)C | C6H5Cl3N2
reactant | carvacrol | 41.4 mmol, 6.21 g | C1=C(O)C(C)=CC=C1C(C)C | C10H14O
reactant | KOtBu | 42 mmol, 1 M, 42 mL | CC(C)(C)[O-].[K+]
reactant | KOtBu | 42 mmol, 1 M, 42 mL | CC(C)(C)[O-].[K+]
solvent | DMA | 166 mL | CC(=O)N(C)C | C4H9NO
product | 2,4-dichloro-5-(5-isopropyl-2-methyl-phenoxymethyl)-6-methyl-pyrimidine | ClC1=NC(=C(C(=N1)Cl)COC1=C(C=CC(=C1)C(C)C)C)C | C16H18Cl2N2O
